US05068340
2-Nonadecyn-1-yl 2-tetrahydropyranyl ether
50 ml of a 15% by weight solution of butyllithium in hexane was added dropwise at -50° C. to a solution of 11.48 g of 2-tetrahydropyranyl propargyl ether in 220 ml of tetrahydrofuran followed by 25 g of palmityl bromide, and the mixture was stirred for 30 minutes, during which time the temperature of the mixture was allowed to rise to room temperature. The reaction mixture was heated under reflux for 16 hours, poured into water and then extracted twice with diethyl ether. The combined extracts were washed with water, dried and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 500 g of silica gel. 14.59 g of the title compound were isolated as an oil from the fractions eluted with a 3:100 by volume mixture of diethyl ether and hexane.

reactant | butyllithium | C(CCC)[Li]
reactant | 2-tetrahydropyranyl propargyl ether | 11.48 g | C(C#C)OC1OCCCC1 | C8H12O2
reactant | palmityl bromide | 25 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
product | 2-Nonadecyn-1-yl 2-tetrahydropyranyl ether | 14.59 g | O1C(CCCC1)OCC#CCCCCCCCCCCCCCCCC | C24H44O2
